US05336780
1 g (2.27 mmol) of 5-acetamido-3-methyl-1-(3-phenyl-O-tosyl-propanehydroximoyl)-pyrazole mixed with 15 ml of methanol and 4 ml of 2N sodium hydroxide solution is stirred for 30 minutes at room temperature, when a clear solution is produced. The mixture is then adjusted to be weakly acid with conc. hydrochloric acid and the methanol is distilled off under vacuum, when a white precipitate is formed. The product may be recrystallised from nitromethane. 420 mg (82%) of 6-methyl-3-(2-phenyl-ethyl)pyrazolo[5,1-c][1,2,4]triazole with a m. pt. of 84°-185° C. are obtained.

reactant | 5-acetamido-3-methyl-1-(3-phenyl-O-tosyl-propanehydroximoyl)-pyrazole | 2.27 mmol, 1 g | C(C)(=O)NC1=CC(=NN1C(CCC1=CC=CC=C1)=NOS(=O)(=O)C1=CC=C(C)C=C1)C | C22H24N4O4S
reactant | sodium hydroxide | 2N, 4 ml | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 15 ml | CO | CH4O
product | 6-methyl-3-(2-phenyl-ethyl)pyrazolo[5,1-c][1,2,4]triazole | 420 mg, 82% | CC1=NN2C(N=NC2CCC2=CC=CC=C2)=C1 | C13H14N4
